US09034882B2
To a solution of (S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate (40 mg, 0.091 mmol) and 4,4-dimethylpiperidine.HCl (13.55 mg, 0.091 mmol) in NMP (1 mL) was added DIEA (0.047 mL, 0.272 mmol) and the mixture was heated at 50° C. for 2 h. Then, 1N NaOH (0.272 mL, 0.272 mmol) was added to the reaction mixture and the contents were heated at 50° C. for 2 h. The reaction mixture was then filtered and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (13.5 mg, 0.027 mmol, 29.6% yield) as white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.77-7.71 (m, 2H), 7.19 (s, 1H), 6.95 (s, 1H), 5.80 (s, 1H), 2.91 (s, 2H), 2.84-2.76 (m, 4H), 1.83-1.75 (m, 4H), 1.65-1.58 (m, 2H), 1.56-1.45 (m, 2H), 1.20 (s, 9H), 1.11 (s., 6H). LCMS (M+H)=506.5.

reactant | (S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetate | 0.091 mmol, 40 mg | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1Cl)N=C(C2)C2=CC=1CCCCC1C=C2)C | C24H28ClN3O3
reactant | 4,4-dimethylpiperidine | CC1(CCNCC1)C | C7H15N
reactant | HCl | 0.091 mmol, 13.55 mg | Cl | ClH
reactant | DIEA | 0.272 mmol, 0.047 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 0.272 mmol, 1N, 0.272 mL | [OH-].[Na+]
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | (S)-2-(tert-butoxy)-2-(7-(4,4-dimethylpiperidin-1-yl)-5-methyl-2-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.027 mmol, 13.5 mg, 29.6% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(C2)C2=CC=1CCCCC1C=C2)C | C30H40N4O3
